US07538172B2
A two-neck 100 ml round bottom flask equipped with a reflux condenser capped with a three-way stopcock was charged with 4-tert-butylphenylboronic acid (0.841 g, 4.724 mmol), N-(4-bromo-2,6-dimethylphenyl)-2,2,2-trifluoroacetamide (1.3346 g, 4.73 mmol), Pd(OAc)2 (45 mg, 0.2 mmol), and Na2CO3 (1.009 g, 3.53 mmol). The reactor was purged of air (three vacuum/argon cycles) before degassed methanol (50 ml) was added. The reaction flask was placed in an ultrasound bath for 4.5 h. The solution was filtered on celite and evaporated. The residue was dissolved in 20 ml of CHCl3 and washed twice with water. The organic layer was dried over MgSO4, filtered and evaporated. The crude product was recrystallized from a CHCl3/hexane mixture to afford 2,2,2-trifluoro-N-(4′-tert-butyl-3,5-dimethyl-biphenyl-4-yl)-acetamide as a white grey solid in 74% yield. 1H NMR (CDCl3): δ=1.36 (s, 9H, C(CH3)3); 2.28 (s, 6H, ortho-CH3); 7.30-7.31 (d, 2H, CHar); 7.44-7.50 (m, 4H, CHar).

reactant | 4-tert-butylphenylboronic acid | 4.724 mmol, 0.841 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | N-(4-bromo-2,6-dimethylphenyl)-2,2,2-trifluoroacetamide | 4.73 mmol, 1.3346 g | BrC1=CC(=C(C(=C1)C)NC(C(F)(F)F)=O)C | C10H9BrF3NO
reactant | Na2CO3 | 3.53 mmol, 1.009 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(OAc)2 | 0.2 mmol, 45 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,2,2-trifluoro-N-(4′-tert-butyl-3,5-dimethyl-biphenyl-4-yl)-acetamide | 74% yield | FC(C(=O)NC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(C)(C)C)C)(F)F | C20H22F3NO
